US04022903
4-Chloro-(5-Chloro-2-Thienyl)-1-Butanone
To a stirring solution of 59 g. (0.50 mole) 2-chlorothiophene, α-chlorobutyroylchloride and 500 ml. carbon tetrachloride maintained at 15°-25° C. with the aid of an ice bath was added portionwise 70.5 g. (0.60 mole) of aluminum chloride. The mixture was stirred at room temperature overnight and then carefully poured into 500 ml. of 20% hydrochloric acid solution. The organic layer was separated and washed with sodium bicarbonate solution followed by water. The organic solution was dried over (MgSO4), filtered, and concentrated to an oil under vacuum. The oil was distilled to give 82 g. of material which boiled at 140° C./2 mm. This material solidified on cooling.

reactant | 2-chlorothiophene | 0.50 mole | ClC=1SC=CC1 | C4H3ClS
reactant | α-chlorobutyroylchloride | ClC(C(=O)Cl)CC | C4H6Cl2O
reactant | aluminum chloride | 0.60 mole | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | Cl | ClH
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-Chloro-(5-Chloro-2-Thienyl)-1-Butanone | ClCCCC(=O)C=1SC(=CC1)Cl | C8H8Cl2OS
